US07615570B2
A mixture of 4-nitrobenzenesulfonyl chloride (1.78 g, 8.0 mmol), pyridine (0.78 mL, 9.6 mmol), and hexamethyleneimine (0.796 g, 8.02 mmol) in dichloromethane (22 mL) was stirred for 5 hrs at 0° C., diluted with 1N HCl, and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, concentrated, and triturated with diethyl ether to give 1-(4-nitro-benzenesulfonyl)-azepane as a brown solid. The solid was added to a mixture of HCO2NH4 (1.91 g, 30.3 mmol) and 10% Pd/C (catalytic amount) in methanol (20 mL) and ethyl acetate (4 mL), stirred overnight at about 25° C., filtered, concentrated, diluted with water, and extracted with dichloromethane. The isolated organic layer was dried (Na2SO4), filtered and concentrated to give the title compound. 1H NMR (300 MHz, CDCl3) δ 8.35 (d, 2H), 7.97 (d, 2H), 3.31 (t, 4H), 1.70-1.79 (m, 4H), 1.56-1.63 (m, 4H).

reactant | 4-nitrobenzenesulfonyl chloride | 8.0 mmol, 1.78 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 9.6 mmol, 0.78 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 22 mL | ClCCl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | 1-(4-nitro-benzenesulfonyl)-azepane | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCCCCC1 | C12H16N2O4S
